US05929085
(a) 7-Nitro-1,2,3,4tetrahydroisoquinolin-1-acetic acid
A suspension of 7-nitro-3,4-dihydroisoquinoline (10.0 g, 56.1 mmol) and malonic acid (11.7 g, 112 mmol) in acetic acid (55 ml) was heated at 120° C. for 0.5 h. Upon cooling, the solvent was concentrated to give a red oil which was taken up in aqueous ethanol (50 ml of 75%). After crystallization had occurred, the solvent was cooled to 0° C. and the product collected. The title compound was isolated as a tan solid (10.9 g, 81%), m.p. 264-5° C. (dec.).

reactant | 7-nitro-3,4-dihydroisoquinoline | 56.1 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C2CCN=CC2=C1 | C9H8N2O2
reactant | malonic acid | 112 mmol, 11.7 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-Nitro-1,2,3,4tetrahydroisoquinolin-1-acetic acid | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)CC(=O)O | C11H12N2O4
